* Z:\home\seijirom\work\2021_9\tsd-and-BGR\bgr8.asc

.subckt bgr8 vin vout res1meg ext1meg D R1 R2 R3 vbg
M19 N006 vbg vin vin pch l=1u w=20u
M17 N004 N001 vin vin pch l=1u w=20u
M11 N002 N001 vin vin pch l=1u w=20u
M35 ext1meg ext1meg vout 0 nch l=1u w=20u
M31 vbg ext1meg N011 0 nch l=1u w=20u
M27 N001 ext1meg N010 0 nch l=1u w=20u
R1 vin res1meg 1Meg
R2 N013 N018 {rhpo}
M47 N010 N010 N010 N018 pch l=1u w=20u ad=20e-12 as=20e-12
M45 N011 N011 N011 N013 pch l=1u w=20u ad=20e-12 as=20e-12
M53 N022 N022 N022 0 pch l=1u w=20u ad=20e-12 as=20e-12
M22 N007 vbg vin vin pch l=1u w=20u
M18 N005 vbg vin vin pch l=1u w=20u
M12 N003 vbg vin vin pch l=1u w=20u
M13 N001 N001 N002 vin pch l=1u w=20u
M14 N001 vbg N003 vin pch l=1u w=20u
M15 vbg N001 N004 vin pch l=1u w=20u
M16 vbg vbg N005 vin pch l=1u w=20u
M20 ext1meg vbg N006 vin pch l=1u w=20u
M21 ext1meg vbg N007 vin pch l=1u w=20u
M36 ext1meg ext1meg vout 0 nch l=1u w=20u
M23 ext1meg ext1meg vout 0 nch l=1u w=20u
M24 ext1meg ext1meg vout 0 nch l=1u w=20u
M32 vbg ext1meg N011 0 nch l=1u w=20u
M28 vbg ext1meg N011 0 nch l=1u w=20u
M29 vbg ext1meg N011 0 nch l=1u w=20u
M30 N001 ext1meg N010 0 nch l=1u w=20u
M33 N001 ext1meg N010 0 nch l=1u w=20u
M34 N001 ext1meg N010 0 nch l=1u w=20u
M43 N011 N011 N011 N013 pch l=1u w=20u ad=20e-12 as=20e-12
M46 N011 N011 N011 N013 pch l=1u w=20u ad=20e-12 as=20e-12
M49 N011 N011 N011 N013 pch l=1u w=20u ad=20e-12 as=20e-12
M48 N011 N011 N011 N013 pch l=1u w=20u ad=20e-12 as=20e-12
M50 N011 N011 N011 N013 pch l=1u w=20u ad=20e-12 as=20e-12
M44 N011 N011 N011 N013 pch l=1u w=20u ad=20e-12 as=20e-12
M51 N011 N011 N011 N013 pch l=1u w=20u ad=20e-12 as=20e-12
R6 0 N023 {rhpo}
R7 N019 N023 {rhpo}
R8 N019 N024 {rhpo}
R9 N020 N024 {rhpo}
R10 N020 N025 {rhpo}
R11 N021 N025 {rhpo}
R12 N021 N018 {rhpo}
R4 N012 N014 {rhpo}
R14 N014 N015 {rhpo}
R15 N015 N016 {rhpo}
R16 N016 N017 {rhpo}
R17 vout R0 {rhpo}
R18 vout R0 {rhpo}
R19 R3 R2 {rhpo}
R20 R2 R1 {rhpo}
R21 R1 N012 {rhpo}
R22 N017 N022 {rhpo}
D2 0 N001 D
R3 R3 R2 {rhpo}
M52 N022 N022 N022 0 pch l=1u w=20u ad=20e-12 as=20e-12
M37 ext1meg ext1meg vout 0 nch l=1u w=20u
M38 ext1meg ext1meg vout 0 nch l=1u w=20u
M42 N008 vbg vin vin pch l=1u w=20u
M39 N009 vbg vin vin pch l=1u w=20u
M40 ext1meg vbg N008 vin pch l=1u w=20u
M41 ext1meg vbg N009 vin pch l=1u w=20u
M25 ext1meg ext1meg vout 0 nch l=1u w=20u
M26 ext1meg ext1meg vout 0 nch l=1u w=20u
R5 0 N023 {rhpo}
D1 0 vbg D
.param rhpo=4k
.ends bgr8

